US06083952
b) 2-Iodo-5-cyanobenzoic acid methyl ester
Sodium nitrite (0.8 g, 11.4 mmol) in water (10 ml) was added dropwise over 10 minutes to a stirred solution of 2-amino-5-cyanobenzoic acid methyl ester (2.0 g, 11.4 mmol) in water (30 ml) and conc. sulphuric acid (15 ml) at 0° C. After a further 15 minutes at 5° C., a solution of potassium iodide (3.5 g, 21 mmol) in water (30 ml) was quickly added and the mixture allowed to warm to room temperature. 10% Aqueous sodium thiosulphate was added, the mixture extracted with ethyl acetate, the extract dried over magnesium sulphate and evaporated. The residue was purified by flash column chromatography on silica eluting with 20% ethyl acetate in hexane to yield the title compound as a colourless oil (2.8 g). MS (+EI) m /z 287 [M+ ].

reactant | Sodium nitrite | 11.4 mmol, 0.8 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-cyanobenzoic acid methyl ester | 11.4 mmol, 2.0 g | COC(C1=C(C=CC(=C1)C#N)N)=O | C9H8N2O2
reactant | potassium iodide | 21 mmol, 3.5 g | [I-].[K+]
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 ml | O | H2O
product | 2-Iodo-5-cyanobenzoic acid methyl ester | 2.8 g | COC(C1=C(C=CC(=C1)C#N)I)=O | C9H6INO2
